US07504429B2
benzyl 4-ethyl-2-formyl-5-phenyl-1H-pyrrole-3-carboxylate
Following the procedures described in Example 5, replacing methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate with benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate and 4-fluorophenylboronic acid with phenylboronic acid, the title compound was obtained. Proton NMR for the product was consistent with the title compound. 1H NMR (500 MHz, CDCl3) δ 9.39 (broad s, 1H); 7.36-7.50 (m, 5H); 5.40 (s, 2H); 2.85 (q, J=7.3 Hz, 2H); 1.22 (t, J=7.3 Hz, 3H). HRMS (ES) exact mass calculated for C21H20NO3 (M+H): 334.1938. Found 334.1430

reactant | benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1I)C=O)C(=O)OCC1=CC=CC=C1 | C15H14INO3
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | benzyl 4-ethyl-2-formyl-5-phenyl-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1C1=CC=CC=C1)C=O)C(=O)OCC1=CC=CC=C1 | C21H19NO3
